US05646155
Reaction between 2-anilino-6-chloropurine and 4-acetoxybutyl bromide was performed as described in A.a., above, giving 2-anilino-6-chloro-9-(4-acetoxybutyl) purine in a 45% yield (from DMF/chloroform), mp 195°-197° C. 1H NMR δ9.98 (s, 2-NH), 8.32 (s, 8-H), 7.31 (m, C6H5), 4.20 (t, 1'-CH2), 4.02 (t, 4'-CH2), 1.95 (s, CH3), 1.92, 1.58 (m, 2'/3'CH2).

reactant | 2-anilino-6-chloropurine | N(C1=CC=CC=C1)C1=NC(=C2NC=NC2=N1)Cl | C11H8ClN5
reactant | 4-acetoxybutyl bromide | C(C)(=O)OCCCCBr | C6H11BrO2
solvent | DMF chloroform | CN(C)C=O.C(Cl)(Cl)Cl
product | 2-anilino-6-chloro-9-(4-acetoxybutyl) purine | 45% yield | N(C1=CC=CC=C1)C1=NC(=C2N=CN(C2=N1)CCCCOC(C)=O)Cl | C17H18ClN5O2
